data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5755,"CC(C)=O.CC1=CC=C(C2CCC(O)([O:1]CCO)CC2)C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9490,"CO[CH:1]=[O+:2]C.C[NH2:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9954,"Br[C:1]1=[CH:2]C=CC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,65,"CC[O+:1](C(C)(O)Cl)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9092,"COC1=CC=C([CH2:1][Br:2])C=C1.C[NH:3]N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5777,"O.O=C[O-].OCCC[OH+:1][CH:2](CCC1=C(Br)C=NC=N1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,713,"CCOC(C)(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3657,"C#CCCC1(CC([Si](C)(C)C)[C:1](=[CH2:2])[O-:3])C(C)CC[C:4]1=[O:5].CO.[OH][K]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9041,"C=CC(C)=O.CCO.CC[N+]1=[C-:1]SC(CCO)=C1C.CC[NH+](CC)CC.COC1=CC([CH:2]=[O:3])=CC(OC)=C1OC.[Br-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6386,"C[P:1](C)C.[OH:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1947,"CC(C)(C)[O-:1].CC=[O+][Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,7744,"CC(C)C(N)C(=O)[O-].CC[C:1](CCC1(C)C(=O)CCC1=O)([NH:2]C(C(=O)O)C(C)C)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2202,"C1CC[NH+:1]([H:2])C1.C=C1CCCC2CC([NH+]3CCCC3)([O-:3])CCC12|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,674,"COC1=CC(I)=C(CCN(C)[C:1](OC(C)(C)C)=[O:2])C=C1OC.[H:3][AlH3-:4].[Li+]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6401,"CC(CCCO[Si](C)(C)C(C)(C)C)C1CCC=C1[O+]([Li-][NH+](C(C)C)C(C)C)[Si-:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6097,"CC(=O)[O-:1].CO.O.O=CC1CCC(=[O+:2][H:3])CC1.OCCO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6167,"CS(=O)(=O)O[Si:1](C)(C)C.C[N-:2]C|(2, 1)"
train,pmechdb_split_0,0,4120,"C1=CC=[NH+]C=C1.CC(SC1=CC=CC=C1)[O:1][C:2](SC1=CC=CC=C1)(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,503,"CC1CC[C+:1]2C=CC=C[C:2]12[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7062,"CC(C)(Br)CCC[OH:1].[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,175,"C1CC[CH:1]([OH:2])[OH+:3]C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3166,"C[C:1]([C:2]1=CC=CC=C1)([CH:3](C1=CC=C(C2CCCCC2)C=C1)[OH2+:4])[OH:5].O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8701,"F[B-](F)(F)[O+:1]1CC[O:2][CH2:3]1|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,6030,"OC(CCl)=[O:1].[OH][Ca:2][OH]|(1, 2)"
train,pmechdb_split_0,0,2208,"C1=CC=C([N+:1]2=[CH:2]C3=C(C=CC=C3)CC2)C=C1.C[Si](C)(C)C[C:3](C)=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8217,"CCCCCC1CC[CH2:1][C:2]([CH2:3][N+:4]#N)([OH:5])C1.O.[Cl-]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,787,"COC1=C(O)C2=C(C=C1)CC1C3CC([O:1]C)C(O)=CC23CCN1CC1CCC1.CS(=O)(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2660,"CC[OH+:1][C:2](CC#N)(NC)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,780,"CC#CN(C)S(C)(=O)=O.CC#[N:1].C[Si:2](C)(C)OS(=O)(=O)C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,9573,"CC(C)(C)OC(=O)N1C(C(O[Si-:1](C)(C)(C)[F:2])C2=NC=CS2)COC1(C)C.CCCC[N+](CCCC)(CCCC)CCCC|((1, 2), 2)"
train,pmechdb_split_0,0,353,"CC(=O)O.CC(=O)O[I:1]1(OCC(CC2=CC=CC=C2)NC(=O)C2=CC=CC=C2)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2|((1, 2), 2)"
train,pmechdb_split_0,0,1905,"O=[C+:1]CC[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,5622,"C=C1CC2(C(C)(C)C)CCCC(=[O:1])C12.Cl[B:2](Cl)Cl|(1, 2)"
train,pmechdb_split_0,0,389,"CC1=CC([O-:1])=C(CC[C+:2](C)C)C(O)=C1.[OH3+]|(1, 2)"
train,pmechdb_split_0,0,9039,"CO[C:1](N)=[O:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2295,"C[C+:1](C)C.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,9891,"CC[C+:1]1CCCC(C)[CH:2]1[H:3].CC[OH:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8611,"BrBr.CC(=O)[O-].CC(C)(C)C1CC2OC(=O)C34CC=CC23C12C[CH:1]([O:2]C)[OH+:3]C2O4|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1897,"CSCCC(N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)NCC(=O)NC(C)C(=O)O.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3226,"CC(=O)[O-].CC1=C[CH:1]=[C:2]([OH:3])C=C1.CCCCOCC1C(OCCCC)C(OCCCC)[C:4](=[CH2:5])[CH:6]=[O+:7]1.FB(F)F|(3, 2);((2, 1), 5);((5, 4), 6);((6, 7), 7)"
train,pmechdb_split_0,0,8669,"C[C:1]1=[CH:2]C(C2=CC=CC=C2)CCCC1C1=CC=CC=C1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4298,"CC(C=[O:1])CC=CI.CC=C(O[Si](C)(C)C(C)(C)C)C(C)C(O[Si](C)(C)C(C)(C)C)C(C)C1O[Si](C(C)C)(C(C)C)OC(C(C)CO[Si](C)(C)C(C)(C)C)C1C.CCOCC.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,9190,"CC(=O)[O-].O=C(C1=CC=C(F)C=C1)C(C[C:1](C1CCN(C(=O)OCC2=CC=CC=C2)CC1)([NH2:2])[OH2+:3])C1=CC=NC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9864,"C1=CC=[C:1]([Li:2])C=C1.CC(=O)CC[C:3](C1=CC=CC=C1)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1018,"CCCOC(O)(CC([NH3+])C1=CC=CC=C1)[OH:1].CCC[OH+:2][H:3].O=S(=O)([O-])O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9010,"CO[PH](OC)(N(C)C)[O+:1](C)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
